US06890916B2
2e, 5-Chloro-3-{1-[5-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)pentan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride
from 5-chloro-3-(piperidin-4-yl)-1H-indole and 1-(5-bromopentan-1-yl)-3,4-dihydroquinolin-2(1H)-one. Mp 206-209° C. 1H NMR (DMSO-d6): 1.30-1.40 (m, 2H); 1.55-1.65 (m, 2H); 1.70-1.80 (m, 2H); 2.00-2.15 (m, 4H); 2.55 (t, 2H); 2.85 (t, 2H); 2.95-3.10 (m, 4H); 3.10-3.25 (m, 1H); 3.55 (d, 2H); 3.90 (t, 2H); 7.00 (t, 1H); 7.05 (d, 1H); 7.15 (d, 1H); 7.20-7.30 (m, 3H); 7.40 (d, 1H); 7.75 (s, 1H); 11.20 (broad s, 1H); 11.15 (s, 1H). MS m/z: 450 (MH+), 299.

reactant | 5-chloro-3-(piperidin-4-yl)-1H-indole | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
reactant | 1-(5-bromopentan-1-yl)-3,4-dihydroquinolin-2(1H)-one | BrCCCCCN1C(CCC2=CC=CC=C12)=O | C14H18BrNO
product | 5-Chloro-3-{1-[5-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)pentan-1-yl]piperidin-4-yl}-1H-indole, hydrochloride | Cl.ClC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCCCCN1C(CCC2=CC=CC=C12)=O | InChI=1S/C27H32ClN3O.ClH/c28-22-9-10-25-23(18-22)24(19-29-25)20-12-16-30(17-13-20)14-4-1-5-15-31-26-7-3-2-6-21(26)8-11-27(31)32;/h2-3,6-7,9-10,18-20,29H,1,4-5,8,11-17H2;1H
